US04045488
In a dry 5-liter three-necked, round-bottomed flask equipped with dropping funnel, mechanical stirrer and thermometer, there were placed 133 g. (0.6 mole) of 4-phenyltetralone[prepared from benzophenone according to procedures described in the Journal of the American Chemical Society, Vol. 69, p. 77 (1947); ibid., Vol. 70, p. 1071 (1948); ibid., Vol. 72, p. 501 (1950); ibid., Vol. 76, p. 1642 (1954)] dissolved in two liters of benzene. Stirring commenced and the solution was then cooled to 50° C., at which point 111.6 g. (3.6 mole) of liquid methylamine were slowly added thereto, followed by the dropwise addition of 33 ml. (0.3 mole) of titanium tetrachloride in 500 ml. of benzene at 0°-5° C. The latter step was carried out during the course of a 30-minute period at such a rate that the temperature never exceeded 5° C. The resulting mixture was then allowed to warm slowly to room temperature (~25° C.), stirred continuously thereafter at said temperature for a period of 4 hours and finally, allowed to stand overnight (a period of approximately 16 hours) at ambient temperatures without any further stirring being necessary. At this point, the spent reaction mixture was filtered while under a dry nitrogen atmosphere and the solids that had been collected on the filter funnel in this manner were thereafter washed with a fresh portion of benzene. The combined benzene filtrate and washings were then evaporated to near dryness while under reduced pressure to give 135.1 g. (95%) of oily ketimine, i.e., an almost quantitative yield of N-methyl-4-phenyl-3,4-dihydro-1-(2H)-naphthalenone imine (m.p. 69°-70° C. after crystallization from n-hexane). The oily product was used as such in the next reaction step.

reactant | 4-phenyltetralone | 0.6 mole | C1(=CC=CC=C1)C1CCC(C2=CC=CC=C12)=O | C16H14O
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | methylamine | CN | CH5N
solvent | benzene | two liters | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 0.3 mole | [Ti](Cl)(Cl)(Cl)Cl
product | N-methyl-4-phenyl-3,4-dihydro-1-(2H)-naphthalenone imine | quantitative yield | CN=C1CCC(C2=CC=CC=C12)C1=CC=CC=C1 | C17H17N
